US06479608B1
1-Butyl-3-ethyl-3,5,5,7-tetramethyl-[1,4]diazepan-2-one (314)
The title compound was prepared as described by Pyong-nae Son, J. T. Lai.: J. Org. Chem. 46, 323 (1981) for 1-butyl-3,3,5,5,7-pentamethyl-[1,4]diazepan-2-one, but using methylethylketon instead of acetone.

reactant | 1-butyl-3,3,5,5,7-pentamethyl-[1,4]diazepan-2-one | C(CCC)N1C(C(NC(CC1C)(C)C)(C)C)=O | C14H28N2O
reactant | methylethylketon | CC(=O)CC | C4H8O
product | 1-Butyl-3-ethyl-3,5,5,7-tetramethyl-[1,4]diazepan-2-one | C(CCC)N1C(C(NC(CC1C)(C)C)(C)CC)=O | C15H30N2O
